US05099027
The following example shows the preparation of a copolymer of glycidyl methacrylate and methyl methacrylate followed by reaction with MBDH. A glycidyl methacrylate-methyl methacrylate copolymer was prepared as generally described above in Example 9.

reactant | glycidyl methacrylate | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
product | glycidyl methacrylate methyl methacrylate | C(C(=C)C)(=O)OCC1CO1.C(C(=C)C)(=O)OC | InChI=1S/C7H10O3.C5H8O2/c1-5(2)7(8)10-4-6-3-9-6;1-4(2)5(6)7-3/h6H,1,3-4H2,2H3;1H2,2-3H3
